US04602027
Triethylamine (8.3 ml) was added dropwise to a solution of ethyl 2-aminoacetoacetate hydrochloride (5.43 g) and cinnamoyl chloride (5.0 g) in chloroform (90 ml) with ice-cooling and stirring. After 20 minutes, the mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was treated with isopropyl ether to give ethyl 2-cinnamoylaminoacetoacetate as crystals; yield 6.1 g (73.9%). Recrystallization from ethanol gave colorless needles melting at 113°-114° C.

reactant | Triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-aminoacetoacetate hydrochloride | 5.43 g | Cl.NC(C(=O)OCC)C(=O)C
reactant | cinnamoyl chloride | 5.0 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-cinnamoylaminoacetoacetate | C(C=CC1=CC=CC=C1)(=O)NC(C(=O)OCC)C(=O)C | C15H17NO4
